US03935209
A solution of 5.85 g. of 1-acetamido-2-nitro-4-thiocyanatobenzene in 20 ml. dimethylformamide is cooled, under nitrogen, to about 0°C. and 1.14 g. of sodium borohydride is added. The exothermic reaction is controlled to less than about 30°C., then the mixture is stirred for 1 hour at 20°-30°C. 6 Ml. of 2-bromopyridine is added and the mixture warmed slowly to about 110°C. and kept at that temperature for 1 hour. The mixture is cooled, diluted with water, and filtered. The crude product is recrystallized from aqueous methanol, yielding 1-amino-2-nitro-4-(pyrid-2-ylthio)benzene.

reactant | 1-acetamido-2-nitro-4-thiocyanatobenzene | C(C)(=O)NC1=C(C=C(C=C1)SC#N)[N+](=O)[O-] | C9H7N3O3S
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | sodium borohydride | [BH4-].[Na+]
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
solvent | water | O | H2O
product | 1-amino-2-nitro-4-(pyrid-2-ylthio)benzene | NC1=C(C=C(C=C1)SC1=NC=CC=C1)[N+](=O)[O-] | C11H9N3O2S
